US04075202
8-Chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5(6H)-one
A solution of 3 g. (0.01 mole) of 8-chloro-1-phenyl-4-thio-1H-1,5-benzodiazepin-2,4-(3H,5H)-dione and 8-chloro-1-phenyl-1H-1,5-benzodiazepin-2,4-(3H,5H)-dithione and 2 g. (0.024 mole) of acethydrazide in 300 ml. of n-butanol is refluxed for 24 hours. During this period nitrogen is bubbled through the reaction mixture. The solution is evaporated to dryness in vacuo and the residue is treated with cold water which gives 2.7 g. of yellow material. This material was found by thin layer chromatography (SiO2, 10% methanol; 90% chloroform) to be a mixture of three compounds and was chromatographed on 300 g. of silica gel using 3% methanol:97% chloroform as an eluting solvent. Fractions 12-19 (100 ml. each) were combined and concentrated giving 1.2 g. of product. This was recrystallized from absolute ethanol giving 800 mg. of white 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3 -a][1,5]benzodiazepin-5(6H)-one as white crystalline product of melting point 297°-298° C.

reactant | 8-chloro-1-phenyl-1H-1,5-benzodiazepin-2,4-(3H,5H)-dithione | ClC=1C=CC2=C(N(C(CC(N2)=S)=S)C2=CC=CC=C2)C1 | C15H11ClN2S2
reactant | acethydrazide | 0.024 mole | C(C)(=O)NN | C2H6N2O
reactant | n-butanol | C(CCC)O | C4H10O
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5(6H)-one | ClC=1C=CC2=C(N(C(CC=3N2C(=NN3)C)=O)C3=CC=CC=C3)C1 | C17H13ClN4O
